US09353150B2
Triethylamine (1.49 mL, 10.7 mmol, 1.50 equiv) was added to a solution of 3-chloropropiophenone (1.20 g, 7.12 mmol, 1 equiv) in dichloromethane (100 mL) at 23° C. Thioacetic acid (602 μL, 8.54 mmol, 1.20 equiv) was then added dropwise to the solution. After 1 h, the reaction mixture was concentrated in vacuo. The crude residue was dissolved in tetrahydrofuran (50 mL) and aqueous hydrochloric acid (6 N, 50 mL) was added to the solution. Thee reaction mixture was then heated to reflux. After 36 h, the reaction was diluted with ethyl acetate (200 mL) and washed with saturated aqueous sodium bicarbonate solution (400 mL). The aqueous layer was extracted with ethyl acetate (3×200 mL), and the combined organic layers were dried over sodium sulfate, were filtered, and were concentrated under reduced pressure. The crude reaction mixture was purified by flash column chromatography on silica gel (eluent: 20% ethyl acetate in hexanes) to afford 3-mercaptopropiophenone (E2-30, 703 mg, 59.4%) as a colorless oil. 1H NMR (500 MHz, CDCl3, 20° C.): δ 7.93 (d, J=7.5, 2H, COPh-o-H), 7.55 (t, J=7.5, 1H, COPh-p-H), 7.45 (app-t, J=7.5, 2H, COPh-m-H), 3.31 (t, J=7, 2H, CH2CH2SH, 2.89 (dt, J=8.5, 6.0, 2H, CH2CH2SH), 1.74 (t, J=8.5, 1H, SH). 13C NMR (125.8 MHz, CDCl3, 20° C.): δ 198.2 (C═O), 136.8 (COPh-ipso-C), 133.6 (COPh-p-C), 128.9 (COPh-m-C), 128.2 (COPh-o-C), 42.7 (CH2CH2SH), 19.1 (CH2CH2SH). FTIR (thin film) cm−1: 3061 (w), 2941 (w), 1683 (s), 1597 (m), 1580 (m) 1448 (m). HRMS (ESI) (m/z): calc'd for C9H11OS [M+H]+: 167.0525. found 167.0526. TLC (20% ethyl acetate in hexanes), Rf: 0.28 (UV, CAM).

reactant | Triethylamine | 10.7 mmol, 1.49 mL, 1.50 equiv | C(C)N(CC)CC | C6H15N
reactant | 3-chloropropiophenone | 7.12 mmol, 1.20 g, 1 equiv | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
reactant | Thioacetic acid | 8.54 mmol, 602 μL, 1.20 equiv | C(C)(=S)O | C2H4OS
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-mercaptopropiophenone | 703 mg, 59.4% | SCCC(=O)C1=CC=CC=C1 | C9H10OS
